US07569550B2
a) 9-(2-Dibenzylamino-ethoxy)-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylic acid 2-dibenzylamino-ethyl ester
9-Hydroxy-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylic acid (GB1417129) (0.905 g, 3.69 mmol) was suspended in dry DMF (50 mL). To this was added potassium carbonate (3.06 g, 22 mmol) and dibenzyl-(2-chloroethyl)amine hydrochloride (2.37 g, 8 mmol). The mixture was heated at 60° C. for 16 h, then more potassium carbonate (0.55 g) and dibenzyl-(2-chloroethyl)amine hydrochloride (1.18 g, 4 mmol) were added. After a further 25 h at 75° C. the mixture was evaporated. The residue was diluted with water and extracted with ethyl acetate (×3). The combined organic extracts were washed with brine, dried and evaporated under reduced pressure. The crude product (4.0 g) was purified by chromatography on silica gel (100 g), eluting with 0-4% methanol in dichloromethane, to give the title compound (2.25 g, 89%); ESMS m/z 692 [M+H]+ (100%).

reactant | 9-Hydroxy-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylic acid | 3.69 mmol, 0.905 g | OC=1C=C2C(C(=CN3C2=C(C1)CCC3)C(=O)O)=O | C13H11NO4
reactant | potassium carbonate | 22 mmol, 3.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | dibenzyl-(2-chloroethyl)amine hydrochloride | 8 mmol, 2.37 g | Cl.C(C1=CC=CC=C1)N(CCCl)CC1=CC=CC=C1
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | dibenzyl-(2-chloroethyl)amine hydrochloride | 4 mmol, 1.18 g | Cl.C(C1=CC=CC=C1)N(CCCl)CC1=CC=CC=C1
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 9-(2-Dibenzylamino-ethoxy)-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylic acid 2-dibenzylamino-ethyl ester | 2.25 g, 89% | C(C1=CC=CC=C1)N(CCOC(=O)C1=CN2C3=C(C=C(C=C3C1=O)OCCN(CC1=CC=CC=C1)CC1=CC=CC=C1)CCC2)CC2=CC=CC=C2 | C45H45N3O4
